US08309554B2
To a solution of N,N-bis-(2-hydroxyethyl)-2-fluoro-4-hydroxyaniline (2 g) and KOH (0.64 g, 10.0 mmole) in EtOH (13 mL) was added BnBr (1.1 mL, 9.1 mmole) and the reaction mixture stirred at reflux for 3 h. The reaction mixture was cooled, evaporated to in dryness and purified by silica gel chromatography (0-7% MeOH/DCM) to provide N,N-bis-(2-hydroxyethyl)-2-fluoro-4-benzyloxyaniline (2.26 g) as a yellow syrup.

reactant | N,N-bis-(2-hydroxyethyl)-2-fluoro-4-hydroxyaniline | 2 g | OCCN(C1=C(C=C(C=C1)O)F)CCO | C10H14FNO3
reactant | KOH | 10.0 mmole, 0.64 g | [OH-].[K+]
reactant | BnBr | 9.1 mmole, 1.1 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | EtOH | 13 mL | CCO | C2H6O
product | N,N-bis-(2-hydroxyethyl)-2-fluoro-4-benzyloxyaniline | 2.26 g | OCCN(C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)CCO | C17H20FNO3
